US04225609
Step C: Preparation of Ethyl 4-{3-[3-(3-Hydroxyoctyl)-4-oxo-2-thiazolidinyl]propyl}benzoate
Ethyl 4-(4-oxobutyl)benzoate (4.63 g., 21 mmol.) is added dropwise to 1-amino-3-(tetrahydro-2H-pyran-2-yloxy)octane (4.82 g., 21 mmol.) at ambient temperature. The resulting mixture is stirred for 15 minutes before adding anhydrous sodium sulfate (4 g.), and then stirred for 1 hour. The solid is subsequently removed by filtration and washed with a small quantity of benzene. The combined filtrate and washings are diluted with benzene (70 ml.) and then treated with mercaptoacetic acid (1.93 g., 21 mmol.). The resulting solution is refluxed in a Dean-Stark apparatus for 3 hours. The reaction mixture is allowed to cool to room temperature, washed successively with dilute hydrochloric acid, 5% sodium bicarbonate, dried over anhydrous magnesium sulfate, and concentrated to give an oil residue. A methanol solution (50 ml.) of the oil residue is treated with concentrated hydrochloric acid (0.2 ml.) and then stirred at ambient temperature for 16 hours. The reaction mixture is diluted with cold water, followed by extraction with ether. The ethereal extract is washed with water, 5% sodium bicarbonate, dried over anhydrous magnesium sulfate, and filtered. Evaporation of the filtrate in vacuo provides an oil residue which is then applied to a silica gel column (300 g.) with chloroform. Elution with chloroform-methanol (100:1; v:v; 1950 ml.) provides impure material; further elution with the same eluant (450 ml.) gives the title compound as a pale yellow oil (2.80 g., 6.64 mmol., 31%), pmr (CDCl3) δ0.90 (3H, t), 1.40 (3H, t), 3.53 (2H, s), 4.40 (2H, q), 4.70 (1H, m), 7.22 (2H, d), 8.0 (2H, d).

reactant | Ethyl 4-(4-oxobutyl)benzoate | 21 mmol, 4.63 g | O=CCCCC1=CC=C(C(=O)OCC)C=C1 | C13H16O3
reactant | 1-amino-3-(tetrahydro-2H-pyran-2-yloxy)octane | 21 mmol, 4.82 g | NCCC(CCCCC)OC1OCCCC1 | C13H27NO2
reactant | sodium sulfate | 4 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | mercaptoacetic acid | 21 mmol, 1.93 g | SCC(=O)O | C2H4O2S
reactant | hydrochloric acid | 0.2 ml | Cl | ClH
solvent | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 50 ml | CO | CH4O
product | Ethyl 4-{3-[3-(3-Hydroxyoctyl)-4-oxo-2-thiazolidinyl]propyl}benzoate | 6.64 mmol, 2.80 g, 31% | OC(CCN1C(SCC1=O)CCCC1=CC=C(C(=O)OCC)C=C1)CCCCC | C23H35NO4S
